US04952683
(d) 2-Trans-hexadecenal
RF =0.5, petroleum ether (boiling point 35°-80° C./ethyl acetate 9:1; UV: blue coloration with anisaldehyde reagent (0.5 ml anisaldehyde, 50 ml glacial acetic acid, 1 ml H2SO4); boiling point (10-3Torr): 115° C.

reactant | anisaldehyde | 0.5 ml | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Trans-hexadecenal | C(\C=C\CCCCCCCCCCCCC)=O | C16H30O
